US08211927B2
B: 4-Cyano-N-cyclopentyl-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide
A mixture of ethyl 4-cyano-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylate (150 mg, 0.48 mmol) and cyclopentylamine (0.24 mL, 2.4 mmol) in ethanol (5 mL) was heated to 82° C. for 16 hours. The volatiles were removed in vacuo and the residue was purified by silica gel chromatography, eluting with 5% methanol in dichloromethane to afford the title compound: (130 mg, 0.37 mmol). 1H NMR (300 MHz, CDCl3) δ 8.27 (m, 2H), 7.86 (m, 2H), 6.68 (br. d, 1H), 4.43 (m, 1H), 2.11 (m, 2H), 1.85-1.45 (m, 6H).

reactant | ethyl 4-cyano-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylate | 0.48 mmol, 150 mg | C(#N)C=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)OCC | C14H9F3N2O3
reactant | cyclopentylamine | 2.4 mmol, 0.24 mL | C1(CCCC1)N | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-Cyano-N-cyclopentyl-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide | C(#N)C=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)NC1CCCC1 | C17H14F3N3O2
